US05344845
Using 4g of 4-(4-benzyloxy-3-methoxyphenyl)-l,3-butadiene-1-carboxylic acid, 3 ml of diethyl chlorophosphate, 3.5 ml of triethylamine, 150 ml of methylene chloride, 2.2 g of trans-4-methylcyclohexylammonium chloride, and 0.5 g of -dimethylaminopyridine, a reaction similar to that conducted in Example 81 was carried out. As a result, 3.62 g of N-(trans-4-methylcyclohexyl)-4-(4-benzyloxy-3-methoxyphenyl)-1,3-butadiene-l-carboxamide (a compound of the present invention) was obtained as a pale yellowhish brown oil, which had the following physiochemical properties:

reactant | 4-(4-benzyloxy-3-methoxyphenyl)-l,3-butadiene-1-carboxylic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=CC=CC(=O)O)OC | C19H18O4
reactant | diethyl chlorophosphate | 3 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | trans-4-methylcyclohexylammonium chloride | 2.2 g | [Cl-].C[C@@H]1CC[C@H](CC1)[NH3+]
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
product | N-(trans-4-methylcyclohexyl)-4-(4-benzyloxy-3-methoxyphenyl)-1,3-butadiene-l-carboxamide | 3.62 g | C[C@@H]1CC[C@H](CC1)NC(=O)C=CC=CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC | C26H31NO3
